US06268369B1
5-(Benzyloxycarbonyl)-1,6-dihydro-2-methoxy-4-ethyl-6-(3,4-difluorophenyl)pyrimidine. A suspension of benzyl 3-[(3,4-difluorophenyl)methylene]-4-oxopentanoate (16.0 g, 48.0 mmol), O-methylisourea hydrogen sulfate (16.65 g, 97.02 mmol), NaHCO3 (16.3 g, 130.2 mmol) in DMF (190 mL) was stirred at 70° C. for 20 h. After cooling to room temperature, the mixture was filtered and the filtrate was diluted with EtOAc (300 mL) and then washed with water (4×100 mL), brine (200 mL) and dried over Na2SO4. After removal of solvent, the residue was purified by column chromatography (SiO2, EtOAc/Hexane, 10%-30%) to get 5-(benzyloxycarbonyl)-1,6-dihydro-2-methoxy-4-methyl-6-(3,4-difluorophenyl)pyrimidine as a colorless oil (10.6 g, 58%). The NMR analysis showed it to be a mixture of amine/imine tautomers and was used as is in the next step.

reactant | 5-(Benzyloxycarbonyl)-1,6-dihydro-2-methoxy-4-ethyl-6-(3,4-difluorophenyl)pyrimidine | C(C1=CC=CC=C1)OC(=O)C1=C(N=C(NC1C1=CC(=C(C=C1)F)F)OC)CC | C21H20F2N2O3
reactant | benzyl 3-[(3,4-difluorophenyl)methylene]-4-oxopentanoate | 48.0 mmol, 16.0 g | FC=1C=C(C=CC1F)C=C(CC(=O)OCC1=CC=CC=C1)C(C)=O | C19H16F2O3
reactant | O-methylisourea hydrogen sulfate | 97.02 mmol, 16.65 g | S(=O)(=O)(O)O.COC(N)=N
reactant | NaHCO3 | 130.2 mmol, 16.3 g | C(=O)(O)[O-].[Na+]
solvent | DMF | 190 mL | CN(C)C=O | C3H7NO
product | 5-(benzyloxycarbonyl)-1,6-dihydro-2-methoxy-4-methyl-6-(3,4-difluorophenyl)pyrimidine | 10.6 g, 58% | C(C1=CC=CC=C1)OC(=O)C1=C(N=C(NC1C1=CC(=C(C=C1)F)F)OC)C | C20H18F2N2O3
